US04666902
6-(4-Methylmercaptophenyl)-5-hydroxymethyl-2,3,4,5-tetrahydro-pyridazin-3-one
10.6 g (0.045 mol) of 4-(4-methylmercaptophenyl)-carbonyl-γ-butyrolactone are stirred in 70 ml of ethanol with 2.5 g (0.05 mol) of hydrazine hydrate at room temperature for 90 minutes. After addition of 8 ml of acetic acid, the mixture is heated under reflux for 1 hour and cooled and the precipitate is filtered off with suction and dried.

reactant | 4-(4-methylmercaptophenyl)-carbonyl-γ-butyrolactone | 0.045 mol, 10.6 g | CSC1=CC=C(C=C1)C1CC(C(=O)O1)=C=O | C12H10O3S
reactant | hydrazine hydrate | 0.05 mol, 2.5 g | O.NN
reactant | acetic acid | 8 ml | C(C)(=O)O | C2H4O2
solvent | ethanol | 70 ml | C(C)O | C2H6O
product | 6-(4-Methylmercaptophenyl)-5-hydroxymethyl-2,3,4,5-tetrahydro-pyridazin-3-one | CSC1=CC=C(C=C1)C=1C(CC(NN1)=O)CO | C12H14N2O2S
